US04742060
A solution composed of 6-chloronicotinaldehyde (14.2 g), 2-aminoethanethiol (7.7 g) and benzene (80 ml) was heated with stirring for 5 hours while removing water as an azeotrope. After the reaction, benzene was distilled off under reduced pressure, and further volatile materials were removed at 1 mmHg and 70° C. to give 2-(2-chloro-5-pyridyl)thiazolidine (18 g) as a residue. Ten grams of 2-(2-chloro-5- pyridyl)thiazolidine was dissolved in 100 ml of ethanol, and sodium borohydride was added. With stirring, the mixture was gradually heated and thereafter refluxed for 1 hour. Ethanol was distilled off under reduced pressure, and chloroform was added to the residue. Insoluble materials were separated by filtration and the chloroform layer was washed with water and dehydrated. Chloroform was distilled off under reduced pressure to give the desired N-(2-chloro-5-pyridylmethyl)2-aminoethanethiol (8.3 g).

reactant | 6-chloronicotinaldehyde | 14.2 g | ClC1=NC=C(C=O)C=C1 | C6H4ClNO
reactant | 2-aminoethanethiol | 7.7 g | NCCS | C2H7NS
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-chloro-5-pyridyl)thiazolidine | 18 g | ClC1=NC=C(C=C1)C1SCCN1 | C8H9ClN2S
